*** SPICE deck for cell HW3_Q2_PMOS{sch} from library ese370
*** Created on Thu Feb 12, 2026 14:19:12
*** Last revised on Thu Feb 12, 2026 14:47:42
*** Written on Fri Feb 13, 2026 01:17:57 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF
* Model cards described in this file:
.include C:\Users\keole\Documents\22nm_HP.pm

.global gnd vdd

*** TOP LEVEL CELL: HW3_Q2_PMOS{sch}
Mpmos@0 vdd gnd gnd vdd P L=0.022U W=0.022U
VV_Generi@0 vdd gnd DC 0.8 AC 0
.END

*** source HW3_Q2_PMOS.spi <-- open circuit in ngspice
*** op <-- operating point analysis
*** print vdd i(vv_generi@0) <-- not really sure what this does

